US09399635B2
(1) Synthesis of 2-methoxy-4-[2-(4-methylpiperazino)ethoxy]benzaldehyde
To a solution of 304 mg (2.00 mmol) of 4-hydroxy-2-methoxybenzaldehyde in N,N-dimethylformamide (4.0 mL) was added 105 mg (55%, 2.40 mmol) of sodium hydride at room temperature. The mixture was stirred at room temperature for 30 minutes, and 0.69 mL (8.0 mmol) of ethylene dibromide was added thereto. The mixture was stirred at 80° C. for 7 hours, and 2.2 mL (20 mmol) of 1-methylpiperazine was added thereto. The mixture was stirred at 80° C. overnight. Water was added to the reaction mixture under ice-cooling and extraction with ethyl acetate was performed. The resulting organic layer was washed with saturated sodium bicarbonate solution and then with saturated brine and dried over magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0 to 40/60) to give 115 mg (20% yield) of the title compound as a brown viscous matter.

reactant | 4-hydroxy-2-methoxybenzaldehyde | 2.00 mmol, 304 mg | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | sodium hydride | 2.40 mmol, 105 mg | [H-].[Na+]
reactant | ethylene dibromide | 8.0 mmol, 0.69 mL | C(CBr)Br | C2H4Br2
reactant | 1-methylpiperazine | 20 mmol, 2.2 mL | CN1CCNCC1 | C5H12N2
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-methoxy-4-[2-(4-methylpiperazino)ethoxy]benzaldehyde | 115 mg, 20% yield | COC1=C(C=O)C=CC(=C1)OCCN1CCN(CC1)C | C15H22N2O3
